### PR TITLE
Proofs of some linearity axioms.

### PR DESCRIPTION
**Pull request by capn-freako**
A definition of "linear map" along w/ some proofs of a few axioms of linearity.

### CODE REVIEW

**Comment by Taneb** [comment]
Looking at this, I'm not convinced that this is the right design.

* `¬-involutive-≈ᴬ`, `¬-involutive-≈ᴮ`, `-ᴬ‿involutive`, and `-ᴮ‿involutive` are properties of the modules, not of the morphism.
* Furthermore, `-ᴬ‿involutive` and `-ᴮ‿involutive` are already implied by the `Module` bundle. We can create a proof of this by `Algebra.Properties.Group.⁻¹-involutive +ᴹ-group`.
* Removing those fields makes the `LinMap` record just a bundle of a function with an `IsModuleHomomorphism`. I'd personally like to see homomorphism bundles added to the library, but this isn't the way to do it. Without those bundles, I'd pass a function and a proof it's a homomorphism separately into the anonymous module in `Algebra.Module.Morphism.Linear.Properties`
* I suspect `¬-involutive-≈` lets us prove that equality for the elements of the module in general is decidable (I'm not sure about this). If that's true, I think it'd be worth adding algebraic structures with decidable equality as a thing in the library.
* We _really_ shouldn't postulate things like Extensionality in stdlib. If it's necessary we should pass it as a parameter. In this case it doesn't seem to actually be being used, so it should be OK to remove it.

I'm going to open some tickets to discuss designs for what I'd like to see exist

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 1]
```diff
@@ -0,0 +1,127 @@
...
+
+  f-x≈-fx : {x : A} → f (-ᴬ x) ≈ᴮ -ᴮ (f x)
+  f-x≈-fx {x = x} = uniqueʳ‿-ᴮ (f x) (f (-ᴬ x)) fx+f-x≈𝟘
+
+  -- A non-trivial linear function is injective.
+  inj-lm : {x y : A} →
+    Σ[ (s , z) ∈ S × A ] ((s ·ᴬ (x +ᴬ -ᴬ y) ≈ᴬ z) × (f z ≉ᴮ 0ᴮ)) →
+    f x ≈ᴮ f y → x ≈ᴬ y
+  inj-lm {x = x} {y = y} ((s , z) , (s·[x-y]≈z , fz≉𝟘)) fx≈fy =
+    let fx-fy≈𝟘 : f x +ᴮ (-ᴮ f y) ≈ᴮ 0ᴮ
```
Comment (JacquesCarette) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:103]: nested lets is not as good as nested where -- lets are inlined.

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 2]
```diff
@@ -0,0 +1,127 @@
...
+open import Relation.Nullary.Negation using (contraposition)
+
+private
+  variable
+    ℓ₁ ℓ₂ r ℓr m ℓm : Level
+    ring           : CommutativeRing r ℓr
+    modA modB      : Module ring m ℓm
+  
+postulate
+  extensionality  : Extensionality ℓ₁ ℓ₂
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:31]: Removed; arriving in next push.

**Comment by Taneb** [comment]
> I'm new to Agda and, particularly, to its standard library. So, I need to ask a few questions of clarification. Thanks, in advance, for your patience!

No worries, glad to have y
 
>     1. Can you tell me what you mean by "function-and-structure option"?

The `LinMap` record you've defined contains a function and a bunch of properties of that function. Until now, we've defined records that look like `IsFooHomomorphism`, parameterized on the function. It'd fit better with the standard library to have a record `IsLinearMap (f : A -> B)`. and pass the function and the proof that it's a linear map as separate arguments. (In addition, note that `IsLinearMap` should be the same as `IsModuleHomomorphism`)

>     2. Where do you think _algebraic structures w/ decidable equality_ should live?

I think this should be a bigger discussion, honestly. I'm going to make another issue about this. (as an aside, I think I was wrong when I said that your `¬-involutive-≈` properties give the module decidable equality. I've looked around and thought a bit, and it's a weaker condition that's called "stability" elsewhere in the library

**Comment by MatthewDaggitt** [comment]
Thank you for the great first PR, we'd definitely welcome the content! I agree with the comments given by @Taneb and @JacquesCarette above though. Looking forward to seeing the updated version :+1:

**Comment by capn-freako** [comment]
> The `LinMap` record you've defined contains a function and a bunch of properties of that function. Until now, we've defined records that look like `IsFooHomomorphism`, parameterized on the function. It'd fit better with the standard library to have a record `IsLinearMap (f : A -> B)`. and pass the function and the proof that it's a linear map as separate arguments. (In addition, note that `IsLinearMap` should be the same as `IsModuleHomomorphism`)

Ah, okay. So, it sounds like what you're proposing is:

1. Skip my definition of `LinMap` entirely.
2. Pack my linearity axiom proofs into a module that is predicated upon an `IsModuleHomomorphism` instance.

Or, were you suggesting that I add my proofs to the _existing_ definition of `IsModuleHomomorphism`?
If a new module, should it be a Bundle?

Thanks,
-db

**Comment by capn-freako** [comment]
Okay, @Taneb & @MatthewDaggitt , I think I've addressed all your concerns.  
Please, let me know if I've missed something.

Thanks, again, for your helpful guidance!  
-db

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 3]
```diff
@@ -0,0 +1,206 @@
...
+open import Agda.Builtin.Sigma
+open import Axiom.DoubleNegationElimination
+open import Data.List
+open import Data.Product
+  using (Σ; _,_; ∃; Σ-syntax; ∃-syntax; _×_)
+open import Relation.Nullary          using (¬_)
+open import Relation.Nullary.Negation using (contraposition)
+
+open MorphismStructures.ModuleMorphisms modA modB
+open Module modA
```
Comment (JacquesCarette) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:33]: Have you considered doing
```agda
module A = Module modA
module B = Module modB
```
instead, and then using qualified names? agda-categories uses this later style, and it largely quite readable.

Note that I'm not saying that you *have* to do this, merely recommending that you give it an honest try, and see if you like it or not.

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 4]
```diff
@@ -0,0 +1,206 @@
...
+  ( non-zeroʳ to non-zeroʳᴮ
+  ; non-zeroˡ to non-zeroˡᴮ
+  )
+open CommutativeRing ring
+  using (_≈_; _*_; _+_) renaming
+  ( Carrier to S
+  ; 0#      to 𝟘
+  ; 1#      to 𝟙
+  )
+open module Reasoningᴬ = Reasoning ≈ᴬ-setoid
```
Comment (JacquesCarette) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:89]: Needing to reason in 2 different setoids is also something that happens a lot. Rather than opening one of them globally (the one for `modB` in this case) and then renaming everything for `modA`, have you considered opening neither of them globally, but use the 'appropriate' one by using `where open ...` in the proofs themselves?

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 5]
```diff
@@ -0,0 +1,206 @@
...
+open module Reasoningᴮ = Reasoning ≈ᴮ-setoid
+open Function.Definitions _≈ᴬ_ _≈ᴮ_
+
+_≉ᴬ_ : A → A → Set ℓm
+x ≉ᴬ y = ¬ (x ≈ᴬ y)
+
+_≉ᴮ_ : B → B → Set ℓm
+x ≉ᴮ y = ¬ (x ≈ᴮ y)
+
+module _
```
Comment (JacquesCarette) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:106]: One of the things you could do is to open reasoning in `modA` locally to this module, for example.

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 6]
```diff
@@ -0,0 +1,206 @@
...
+  {⟦_⟧ : A → B}
+  (isModuleHomomorphism : IsModuleHomomorphism ⟦_⟧)
+  where
+
+  open IsModuleHomomorphism isModuleHomomorphism
+
+  -- f(x) ≈ 0 iff x ≈ 0, for linear non-trivial f
+  f𝟘≈𝟘 : {x : A} → ⟦ 0ᴬ ⟧ ≈ᴮ 0ᴮ
```
Comment (JacquesCarette) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:114]: This is kind of a weird name, as there is no `f` in the rhs.  You should be consistent about what you name the homomorphism. I have no strong preference between `⟦_⟧` and `f`, but strong preference that you make a choice.

I have a weak preference for `f`. `⟦_⟧` is "semantics brackets", and this isn't quite semantics.

Comment (JacquesCarette) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:114]: Also, this is a really weird property! You have an implicit `x` in the assumptions that is not used in the conclusion. It's never ever going to be inferred, so it will always need to be given.

I think you can use `1` instead of `x`. Your proof just needs that `A` is inhabited to go through, and `1` gives you that. You could even use `0` !  But `x` is bad.

**Review by JacquesCarette — CHANGES_REQUESTED** [review]

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 3 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:33]: Doesn't that collide with my use of "A" and "B" for the carrier types of those modules?

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 4 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:89]: Ah, right, I remember seeing that "trick" in some code and taking a mental note to use it.
Then, of course, I forgot. :(
Let me see where I can apply that, in my own code...

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 5 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:106]: Okay, let me give that a try.
Thanks for the tip! :)

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 6 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:114]: D'oh! Yes, I'd intended to change all `f`s to `⟦_⟧`s and missed this one. :(

Oh, _very_ interesting that you actually prefer `f`. I do, as well, as I'd much prefer that `⟦_⟧` only ever meant, "the meaning of." I guess I misread an intended convention when perusing the other code in the standard library.
I'll revert to `f`.

I'll also get rid of the unnecessary `x`.

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 5 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:106]: @JacquesCarette , can I open one or the other for the `module _` in general and then singly override my choice, using a `where open ...` that is local to a particular proof?
When I try this, Agda tells me that I've created ambiguity around the symbol: `begin_`; so, I'm guessing the answer is, "no."

I'm guessing the only alternative is to use a proof-local `where open ...` clause in _every_ proof that uses the equational reasoning symbols?

Comment (JacquesCarette) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:106]: You can't override what's visible in a name space. 

Note if you open things in a `private` block, that visibility won't leak out to the top-level (which is what happens with`_` modules). Sometimes I name my modules, and open them later, to also deal with visibility issues.

`where open ...` in every proof is always an option. But it does get noisy.

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 3 above)
Comment (JacquesCarette) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:33]: Turns out that no, it doesn't: different name spaces for symbols and modules. So you can name them both A and B without problem.

Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda]: Okay, I switched to your suggested notation.
I think, visually, I prefer the operators w/ superscript "M" replaced by "A"/"B", but I _really_ like getting rid of that long list of renames!

**These changes included in latest push and ready for review.**

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 4 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda]: **Changed included in latest push and ready for review.**

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 5 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:61]: Okay, I went with per-proof `where open ...` and it looks fine to my eye.

**These changes included in latest push and ready for review.**

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 6 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda]: I believe that I've addressed everything here.

**These changes included in latest push and ready for review.**

**Comment by capn-freako** [comment]
A question, regarding Git protocol: Am I supposed to click the _Resolve Conversation_ button when I _think_ I've addressed the concern, or is it for the requestor to click only when they're satisfied that their concern has actually been addressed?

**Comment by MatthewDaggitt** [comment]
> A question, regarding Git protocol: Am I supposed to click the Resolve Conversation button when I think I've addressed the concern, or is it for the requestor to click only when they're satisfied that their concern has actually been addressed?

I think it's fine either way. If you have doubts about whether you've addressed properly then I'd leave it open, otherwise feel free to hit "Resolve" :+1:

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 7]
```diff
@@ -0,0 +1,172 @@
...
+  -- f is odd (i.e. - f (-x) ≈ - (f x)).
+  fx+f-x≈𝟘 : {x : A} → f x B.+ᴹ f (A.-ᴹ x) B.≈ᴹ B.0ᴹ
+  fx+f-x≈𝟘 {x = x} = begin
+    f x B.+ᴹ f (A.-ᴹ x) ≈⟨ B.≈ᴹ-sym (+ᴹ-homo x (A.-ᴹ x)) ⟩
+    f (x A.+ᴹ (A.-ᴹ x)) ≈⟨ ⟦⟧-cong (A.-ᴹ‿inverseʳ x) ⟩
+    f A.0ᴹ              ≈⟨ f𝟘≈𝟘 ⟩
+    B.0ᴹ ∎
+    where open Reasoning B.≈ᴹ-setoid
+
+  f-x≈-fx : {x : A} → f (A.-ᴹ x) B.≈ᴹ B.-ᴹ f x
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:122]: This name should be `f[-x]≈-fx`

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 8]
```diff
@@ -0,0 +1,172 @@
...
+    s·fx≉𝟘  = λ s·fx≈𝟘 →
+      fy≉𝟘 ( begin
+             f y          ≈⟨ ⟦⟧-cong (A.≈ᴹ-sym s·x≈y) ⟩
+             f (s A.*ₗ x) ≈⟨ *ₗ-homo s x ⟩
+             s B.*ₗ f x   ≈⟨ s·fx≈𝟘 ⟩
+             B.0ᴹ ∎
+           )
+
+  -- f is odd (i.e. - f (-x) ≈ - (f x)).
+  fx+f-x≈𝟘 : {x : A} → f x B.+ᴹ f (A.-ᴹ x) B.≈ᴹ B.0ᴹ
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:114]: Same with this one.

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 9]
```diff
@@ -0,0 +1,172 @@
...
+    y≉𝟘     = fx≉𝟘→x≉𝟘 fy≉𝟘
+    fs·x≈fy : f (s A.*ₗ x) B.≈ᴹ f y
+    fs·x≈fy = ⟦⟧-cong s·x≈y
+    s·fx≈fy : s B.*ₗ f x B.≈ᴹ f y
+    s·fx≈fy = begin
+      s B.*ₗ f x   ≈⟨ B.≈ᴹ-sym (*ₗ-homo s x) ⟩
+      f (s A.*ₗ x) ≈⟨ fs·x≈fy ⟩
+      f y ∎
+    s·fx≉𝟘  : (s B.*ₗ f x) ≉ᴮ B.0ᴹ
+    s·fx≉𝟘  = λ s·fx≈𝟘 →
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:105]: No need to have a lambda here, this can go on the LHS of the equals, e.g. `s·fx≉𝟘 s·fx≈𝟘 =`

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 10]
```diff
@@ -0,0 +1,172 @@
...
+  {ring      : CommutativeRing r ℓr}
+  (modA modB  : Module ring m ℓm)
+  where
+
+import Algebra.Module.Properties          as Properties
+import Function.Definitions
+import Relation.Binary.Reasoning.Setoid   as Reasoning
+import Algebra.Module.Morphism.Structures as MorphismStructures
+
+open import Agda.Builtin.Sigma
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:24]: We shouldn't import the builtin modules. Everything from here should be re-exported by `Data.Product`.

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 11]
```diff
@@ -0,0 +1,172 @@
...
+open import Data.List
+open import Data.Product
+  using (Σ; _,_; ∃; Σ-syntax; ∃-syntax; _×_)
+open import Relation.Nullary          using (¬_)
+open import Relation.Nullary.Negation using (contraposition)
+
+open MorphismStructures.ModuleMorphisms modA modB
+module A = Module modA
+open A using () renaming (Carrierᴹ to A)
+open Properties A.leftSemimodule
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:35]: Again instead of the renaming, we can overload the module name `A` and write:
```agda
module A = Properties A.leftSemimodule

.... A.non-zeroʳ ....
```

**Review by MatthewDaggitt — COMMENTED** [review]
You haven't picked the simplest first PR @capn-freako, thank you for sticking it out :smile: 

The module structure now looks pretty good to me, so I've left some comments about the style.

Just a heads up that there'll probably be one more lot of comments after this round.

File: src/Algebra/Module/Bundles.agda [hunk 12]
```diff
@@ -333,3 +334,7 @@ record Module (commutativeRing : CommutativeRing r ℓr) m ℓm
   semimodule = record { isSemimodule = isSemimodule }
 
   open Semimodule semimodule public using (*ₗ-comm; *ᵣ-comm)
+
+  -ᴹ‿involutive : {x : Carrierᴹ} → -ᴹ (-ᴹ x) ≈ᴹ x
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Module/Bundles.agda:338]: Changed as requested.

File: src/Algebra/Module/Bundles.agda [hunk 13]
```diff
@@ -333,3 +334,7 @@ record Module (commutativeRing : CommutativeRing r ℓr) m ℓm
...
+  -ᴹ‿involutive {x = x} = ⁻¹-involutive +ᴹ-group x
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Module/Bundles.agda:339]: Changed as requested.

File: CHANGELOG.md [hunk 14]
```diff
@@ -950,6 +950,12 @@ New modules
   Data.Vec.Relation.Unary.Linked.Properties
   ```
 
+* Proofs of some axioms of linearity:
+  ```
+  Algebra.Module.Bundles
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply CHANGELOG.md:955]: Changed as requested.

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 15]
```diff
@@ -0,0 +1,172 @@
...
+open CommutativeRing ring
+  using (_≈_; _*_; _+_) renaming
+  ( Carrier to S
+  ; 0#      to 𝟘
+  ; 1#      to 𝟙
+  )
+open Function.Definitions A._≈ᴹ_ B._≈ᴹ_
+
+_≉ᴬ_ : A → A → Set ℓm
+x ≉ᴬ y = ¬ (x A.≈ᴹ y)
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:56]: Changed as requested.

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 16]
```diff
@@ -0,0 +1,172 @@
...
+open import Algebra.Module            using (Module)
+open import Level                     using (Level; _⊔_)
+
+module Algebra.Module.Morphism.Linear.Properties
+  {r ℓr m ℓm : Level}
+  {ring      : CommutativeRing r ℓr}
+  (modA modB  : Module ring m ℓm)
+  where
+
+import Algebra.Module.Properties          as Properties
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:19]: Changed as requested.

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 17]
```diff
@@ -0,0 +1,172 @@
...
+open Properties B.leftSemimodule
+  using () renaming
+  ( non-zeroʳ to non-zeroʳᴮ
+  ; non-zeroˡ to non-zeroˡᴮ
+  )
+open CommutativeRing ring
+  using (_≈_; _*_; _+_) renaming
+  ( Carrier to S
+  ; 0#      to 𝟘
+  ; 1#      to 𝟙
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:51]: Changed as requested.

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 18]
```diff
@@ -0,0 +1,172 @@
...
+  )
+open Function.Definitions A._≈ᴹ_ B._≈ᴹ_
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:53]: Correct. Removed.

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 19]
```diff
@@ -0,0 +1,172 @@
...
+
+  open IsModuleHomomorphism isModuleHomomorphism
+
+  -- f(x) ≈ 0 iff x ≈ 0, for linear non-trivial f
+  f𝟘≈𝟘 : f A.0ᴹ B.≈ᴹ B.0ᴹ
+  f𝟘≈𝟘 = begin
+    f A.0ᴹ          ≈⟨ ⟦⟧-cong (A.≈ᴹ-sym (A.*ₗ-zeroˡ A.0ᴹ)) ⟩
+    f (𝟘 A.*ₗ A.0ᴹ) ≈⟨ *ₗ-homo 𝟘 A.0ᴹ ⟩
+    𝟘 B.*ₗ f A.0ᴹ   ≈⟨ B.*ₗ-zeroˡ (f A.0ᴹ) ⟩
+    B.0ᴹ ∎
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:74]: Changed as requested.

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 20]
```diff
@@ -0,0 +1,172 @@
...
+    where open Reasoning B.≈ᴹ-setoid
+
+  x≈𝟘→fx≈𝟘 : {x : A} → x A.≈ᴹ A.0ᴹ → f x B.≈ᴹ B.0ᴹ
+  x≈𝟘→fx≈𝟘 {x = x} x≈𝟘 = begin
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:78]: Changed as requested.

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 21]
```diff
@@ -0,0 +1,172 @@
...
+      Σ[ (s , y) ∈ S × A ] ((s A.*ₗ x A.≈ᴹ y) × (f y ≉ᴮ B.0ᴹ)) →
+      f x B.≈ᴹ B.0ᴹ → x A.≈ᴹ A.0ᴹ
+    fx≈𝟘⇒x≈𝟘 {x = x} ((s , y) , (s·x≈y , fy≉𝟘)) fx≈𝟘 =
+      dne ¬x≉𝟘
+      where
+      ¬x≉𝟘 : ¬ (x ≉ᴬ A.0ᴹ)
+      ¬x≉𝟘 = λ x≉𝟘 → zero-unique ((s , y) , (s·x≈y , fy≉𝟘)) x≉𝟘 fx≈𝟘
+
+    -- A non-trivial linear function is injective.
+    fx-fy≈𝟘 : {x y : A} {fx≈fy : f x B.≈ᴹ f y} → f x B.+ᴹ (B.-ᴹ f y) B.≈ᴹ B.0ᴹ
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:137]: Thanks! Your comment _really_ helped me gain some additional clarity on implicit arguments, telescopes, etc.

Changed as requested.

File: src/Algebra/Module/Properties.agda [hunk 22]
```diff
@@ -0,0 +1,57 @@
...
+  where
+
+open import Relation.Nullary       using (¬_)
+
+open LeftSemimodule lsmod
+  using (*ₗ-zeroˡ; *ₗ-zeroʳ; ≈ᴹ-setoid; _≈ᴹ_; *ₗ-congˡ; *ₗ-congʳ)
+  renaming
+  ( Carrierᴹ to M
+  ; _*ₗ_     to _·_
+  ; 0ᴹ       to 𝟘
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Module/Properties.agda:25]: Changed as requested.

File: src/Algebra/Module/Properties.agda [hunk 23]
```diff
@@ -0,0 +1,57 @@
...
+  using (_≉_) renaming
+  ( Carrier to R
+  ; 0#      to 0ᴿ
+  )
+
+open import Relation.Binary.Reasoning.Setoid ≈ᴹ-setoid
+
+non-zeroˡ : {s : R} {v : M} → s · v ≉ᴹ 𝟘 → s ≉ 0ᴿ
+non-zeroˡ {s = s} {v = v} s·v≉𝟘 = λ { s≈0ᴿ →
+  let s·v≈𝟘 : s  · v ≈ᴹ 𝟘
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Module/Properties.agda:41]: Is this what you had in mind?

```agda
s≈𝟘⇒s*v≈𝟘 : ∀ {s} {v} → s ≈ 0# → s *ₗ v ≈ᴹ 0ᴹ
s≈𝟘⇒s*v≈𝟘 {s} {v} s≈𝟘 = begin
  s  *ₗ v ≈⟨ *ₗ-congʳ s≈𝟘 ⟩
  0# *ₗ v ≈⟨ *ₗ-zeroˡ v ⟩
  0ᴹ      ∎

v≈𝟘⇒s*v≈𝟘 : ∀ {s} {v} → v ≈ᴹ 0ᴹ → s *ₗ v ≈ᴹ 0ᴹ
v≈𝟘⇒s*v≈𝟘 {s} {v} v≈𝟘 = begin
  s *ₗ v  ≈⟨ *ₗ-congˡ v≈𝟘 ⟩
  s *ₗ 0ᴹ ≈⟨ *ₗ-zeroʳ s ⟩
  0ᴹ      ∎

non-zeroˡ : ∀ {s} {v} → s *ₗ v ≉ᴹ 0ᴹ → s ≉ 0#
non-zeroˡ = contraposition s≈𝟘⇒s*v≈𝟘

non-zeroʳ : ∀ {s} {v} → s *ₗ v ≉ᴹ 0ᴹ → v ≉ᴹ 0ᴹ
non-zeroʳ = contraposition v≈𝟘⇒s*v≈𝟘
```

File: src/Algebra/Module/Properties.agda [hunk 24]
```diff
@@ -0,0 +1,57 @@
+------------------------------------------------------------------------
+-- The Agda standard library
+--
+-- Properties of scaling.
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Module/Properties.agda:4]: Changed as requested.

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 7 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:122]: Changed as requested.

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 8 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:114]: Changed as requested.

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 9 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:105]: Changed as requested.

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 10 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:24]: Changed as requested.

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 11 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:35]: When I try this, I'm told:

```
Duplicate definition of module A. Previous definition of (record)
module A at
```

File: src/Algebra/Module/Bundles.agda [hunk 25]
```diff
@@ -92,6 +99,10 @@ record LeftModule (ring : Ring r ℓr) m ℓm : Set (r ⊔ ℓr ⊔ suc (m ⊔ 
     -ᴹ_ : Op₁ Carrierᴹ
     isLeftModule : IsLeftModule ring _≈ᴹ_ _+ᴹ_ 0ᴹ -ᴹ_ _*ₗ_
 
+  infix 4 _≉ᴹ_
+  _≉ᴹ_ : Rel Carrierᴹ _
+  a ≉ᴹ b = ¬ (a ≈ᴹ b)
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Bundles.agda:104]: We shouldn't have to redefine this more than twice. For example here, we can import it from `leftSemimodule` below right?

File: src/Algebra/Module/Bundles.agda [hunk 26]
```diff
@@ -333,3 +368,6 @@ record Module (commutativeRing : CommutativeRing r ℓr) m ℓm
   semimodule = record { isSemimodule = isSemimodule }
 
   open Semimodule semimodule public using (*ₗ-comm; *ᵣ-comm)
+
+  -ᴹ-involutive : Involutive _≈ᴹ_ -ᴹ_
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Bundles.agda:372]: The bundle (i.e. `Semimodule`) should not contain any proofs that the structures (i.e. `IsSemimodule`) does not have. Therefore this should go in `Algebra.Module.Properties.Semimodule` (this file may not yet exist).

File: src/Algebra/Module/Properties.agda [hunk 27]
```diff
@@ -0,0 +1,47 @@
...
+  (lsmod : LeftSemimodule semiring m ℓm)
+  where
+
+open import Relation.Nullary          using (¬_)
+open import Relation.Nullary.Negation using (contraposition)
+
+open LeftSemimodule lsmod
+  using ( *ₗ-zeroˡ; *ₗ-zeroʳ; ≈ᴹ-setoid; *ₗ-congˡ; *ₗ-congʳ
+        ; _*ₗ_; 0ᴹ; _≈ᴹ_; _≉ᴹ_)
+  renaming (Carrierᴹ to M)
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Properties.agda:24]: No longer need this renaming and the renaming below. So we can probably just `open LeftSemimodule` without the `using`?

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 28]
```diff
@@ -0,0 +1,163 @@
...
+-- The Agda standard library
+--
+-- Properties of linear maps.
+------------------------------------------------------------------------
+
+{-# OPTIONS --without-K --safe #-}
+
+open import Algebra                   using (CommutativeRing)
+open import Algebra.Module            using (Module)
+open import Level                     using (Level; _⊔_)
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:11]: Don't need `_⊔_`?

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 29]
```diff
@@ -0,0 +1,163 @@
...
+
+module Algebra.Module.Morphism.Linear.Properties
+  {r ℓr m ℓm : Level}
+  {ring      : CommutativeRing r ℓr}
+  (modA modB  : Module ring m ℓm)
+  where
+
+import Algebra.Module.Properties          as ModuleProperties
+import Function.Definitions
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:20]: Don't need this import?

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 30]
```diff
@@ -0,0 +1,163 @@
...
+
+open MorphismStructures.ModuleMorphisms modA modB
+module A = Module modA
+open A using () renaming (Carrierᴹ to A)
+-- module A = ModuleProperties A.leftSemimodule
+-- open ModuleProperties A.leftSemimodule
+--   using () renaming
+--   ( non-zeroʳ to non-zeroʳᴬ
+--   ; non-zeroˡ to non-zeroˡᴬ
+--   )
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:39]: Please remove the commented out code :smile:

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 31]
```diff
@@ -0,0 +1,163 @@
...
+
+module _
+  {f : A → B}
+  (isModuleHomomorphism : IsModuleHomomorphism f)
+  where
+
+  open IsModuleHomomorphism isModuleHomomorphism
+
+  -- f(x) ≈ 0 iff x ≈ 0, for linear non-trivial f
+  f𝟘≈𝟘 : f A.0ᴹ B.≈ᴹ B.0ᴹ
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:59]: Please could we use standard `0`s in the names rather than boldfaced ones. More standard, and easier to type!

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 32]
```diff
@@ -0,0 +1,163 @@
...
+  f𝟘≈𝟘 = begin
+    f A.0ᴹ           ≈⟨ ⟦⟧-cong (A.≈ᴹ-sym (A.*ₗ-zeroˡ A.0ᴹ)) ⟩
+    f (0# A.*ₗ A.0ᴹ) ≈⟨ *ₗ-homo 0# A.0ᴹ ⟩
+    0# B.*ₗ f A.0ᴹ   ≈⟨ B.*ₗ-zeroˡ (f A.0ᴹ) ⟩
+    B.0ᴹ             ∎
+    where open Reasoning B.≈ᴹ-setoid
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:65]: As an alternative to reopening `Reasoning.Setoid` in every proof, we could use `Relation.Binary.Reasoning.MultiSetoid`?

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 33]
```diff
@@ -0,0 +1,163 @@
...
+
+    -- A non-trivial linear function is injective.
+    fx-fy≈𝟘 : ∀ {x} {y} → (f x B.≈ᴹ f y) → f x B.+ᴹ (B.-ᴹ f y) B.≈ᴹ B.0ᴹ
+    fx-fy≈𝟘 {x} {y} fx≈fy = begin
+      f x B.+ᴹ (B.-ᴹ f y) ≈⟨ B.+ᴹ-congˡ (B.-ᴹ‿cong (B.≈ᴹ-sym fx≈fy)) ⟩
+      f x B.+ᴹ (B.-ᴹ f x) ≈⟨ B.-ᴹ‿inverseʳ (f x) ⟩
+      B.0ᴹ                ∎
+      where open Reasoning B.≈ᴹ-setoid
+
+    fx-y≈𝟘 : ∀ {x} {y} → (f x B.≈ᴹ f y) → f (x A.+ᴹ (A.-ᴹ y)) B.≈ᴹ B.0ᴹ
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:134]: Can combine `{x} {y}` into `{x y}` and no need for brackets around `(f x B.≈ᴹ f y)`

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 34]
```diff
@@ -0,0 +1,163 @@
...
+    f x B.+ᴹ f (A.-ᴹ x) ≈⟨ B.≈ᴹ-sym (+ᴹ-homo x (A.-ᴹ x)) ⟩
+    f (x A.+ᴹ (A.-ᴹ x)) ≈⟨ ⟦⟧-cong (A.-ᴹ‿inverseʳ x) ⟩
+    f A.0ᴹ              ≈⟨ f𝟘≈𝟘 ⟩
+    B.0ᴹ                ∎
+    where open Reasoning B.≈ᴹ-setoid
+
+  f[-x]≈-fx : ∀ {x} → f (A.-ᴹ x) B.≈ᴹ B.-ᴹ f x
+  f[-x]≈-fx {x} = B.uniqueʳ‿-ᴹ (f x) (f (A.-ᴹ x)) fx+f[-x]≈𝟘
+
+  module _ {dne : DoubleNegationElimination _} where
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:115]: Hmm assuming double negation elimination (for every type!) is very strong here! First of all is definitely needed for all of these? (just checking!)

Secondly can we get away with assuming the (weaker?) statement of decidability of `A.≉ᴹ`?

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 35]
```diff
@@ -0,0 +1,163 @@
...
+
+    fx≈𝟘⇒x≈𝟘 : ∀ {x} →
+      Σ[ (s , y) ∈ S × A ] ((s A.*ₗ x A.≈ᴹ y) × (f y B.≉ᴹ B.0ᴹ)) →
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:118]: It would be much shorter to write: `∃₂ λ s y →` rather than `Σ[ (s , y) ∈ S × A ]` in this proof and the one below.

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 36]
```diff
@@ -0,0 +1,163 @@
...
+    Σ[ (s , y) ∈ S × A ] ((s A.*ₗ x A.≈ᴹ y) × (f y B.≉ᴹ B.0ᴹ)) →
+    x A.≉ᴹ A.0ᴹ → f x B.≉ᴹ B.0ᴹ
+  zero-unique {x} ((s , y) , (s·x≈y , fy≉𝟘)) x≉𝟘 =
+    B2.non-zeroʳ s·fx≉𝟘
+    where
+    open Reasoning B.≈ᴹ-setoid
+    y≉𝟘     : y A.≉ᴹ A.0ᴹ
+    y≉𝟘     = fx≉𝟘⇒x≉𝟘 fy≉𝟘
+    fs·x≈fy : f (s A.*ₗ x) B.≈ᴹ f y
+    fs·x≈fy = ⟦⟧-cong s·x≈y
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:88]: We can just fold the definition of `fs·x≈fy` into the proof below no? It's really short...

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 37]
```diff
@@ -0,0 +1,163 @@
...
+    s·fx≈fy : s B.*ₗ f x B.≈ᴹ f y
+    s·fx≈fy = begin
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:90]: Hmm this proof doesn't seem to be used at all?

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 38]
```diff
@@ -0,0 +1,163 @@
...
+    f x    ≈⟨ ⟦⟧-cong x≈𝟘 ⟩
+    f A.0ᴹ ≈⟨ f𝟘≈𝟘 ⟩
+    B.0ᴹ   ∎
+    where open Reasoning B.≈ᴹ-setoid
+
+  fx≉𝟘⇒x≉𝟘 : ∀ {x} → f x B.≉ᴹ B.0ᴹ → x A.≉ᴹ A.0ᴹ
+  fx≉𝟘⇒x≉𝟘 = contraposition x≈𝟘⇒fx≈𝟘
+
+  -- Zero is a unique output of linear map ≉ `const 𝟘`.
+  zero-unique : ∀ {x} →
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:78]: Might be useful to have a read of the [style guide ](https://github.com/agda/agda-stdlib/blob/master/notes/style-guide.md), especially the bit about indentation.

File: src/Algebra/Module/Properties.agda [hunk 39]
```diff
@@ -0,0 +1,47 @@
...
+  0# *ₗ v ≈⟨ *ₗ-zeroˡ v ⟩
+  0ᴹ      ∎
+
+v≈𝟘⇒s*v≈𝟘 : ∀ {s} {v} → v ≈ᴹ 0ᴹ → s *ₗ v ≈ᴹ 0ᴹ
+v≈𝟘⇒s*v≈𝟘 {s} {v} v≈𝟘 = begin
+  s *ₗ v  ≈⟨ *ₗ-congˡ v≈𝟘 ⟩
+  s *ₗ 0ᴹ ≈⟨ *ₗ-zeroʳ s ⟩
+  0ᴹ      ∎
+
+non-zeroˡ : ∀ {s} {v} → s *ₗ v ≉ᴹ 0ᴹ → s ≉ 0#
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Properties.agda:43]: This name isn't very descriptive of what the proof says. Maybe we should use the names `s*v≉0⇒s≉0` to match the names of the proofs of the opposite direction above?

**Review by MatthewDaggitt — COMMENTED** [review]
Thanks! Here's another round of comments!

File: src/Algebra/Module/Bundles.agda (hunk 25 above)
Comment (capn-freako) [reply src/Algebra/Module/Bundles.agda:104]: D'oh! I know better than to be unnecessarily redundant w/ code; sorry. :(
Fixed and arriving w/ next push.

File: src/Algebra/Module/Bundles.agda (hunk 26 above)
Comment (capn-freako) [reply src/Algebra/Module/Bundles.agda:372]: You meant to say `Module`, right?
(This property is defined inside the `Module` record and relies on `-ᴹ_`.)

File: src/Algebra/Module/Properties.agda (hunk 27 above)
Comment (capn-freako) [reply src/Algebra/Module/Properties.agda:24]: Yep, thanks!
Fixed and arriving in next push.

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 28 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:11]: Fixed and arriving in next push.

File: src/Algebra/Module/Bundles.agda (hunk 26 above)
Comment (capn-freako) [reply src/Algebra/Module/Bundles.agda:372]: So, I just noticed this in `Algebra.Module.Bundles.Semimodule`:

```agda
*ₗ-comm : L.Commutative _*ₗ_
*ₗ-comm x y m = begin
  x *ₗ y *ₗ m   ≈⟨ ≈ᴹ-sym (*ₗ-assoc x y m) ⟩
  (x * y) *ₗ m  ≈⟨ *ₗ-cong (*-comm _ _) ≈ᴹ-refl ⟩
  (y * x) *ₗ m  ≈⟨ *ₗ-assoc y x m ⟩
  y *ₗ x *ₗ m   ∎

*ᵣ-comm : R.Commutative _*ᵣ_
*ᵣ-comm m x y = begin
  m *ᵣ x *ᵣ y   ≈⟨ *ᵣ-assoc m x y ⟩
  m *ᵣ (x * y)  ≈⟨ *ᵣ-cong ≈ᴹ-refl (*-comm _ _) ⟩
  m *ᵣ (y * x)  ≈⟨ ≈ᴹ-sym (*ᵣ-assoc m y x) ⟩
  m *ᵣ y *ᵣ x   ∎
```

And I'm wondering why this exception was made.
Thanks!

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 29 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:20]: Nope; removed in next push.

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 30 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:39]: Removed in next push.

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 31 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:59]: Changed as requested in next push.

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 32 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:65]: Oh, that is awesome sauce!!! Thanks. :)

Changed as requested in next push.

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 33 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:134]: Cleaned up as requested in next push.

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 34 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:115]: No, I only need: `¬x≉0⇒x≈0`. I just wasn't sure how else to get that.

You think I can get it, via decidability?
Can you give me a bit more of a hint?

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 35 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:118]: Hmmm, I can't seem to make that work.
When I try: `∃₂ λ s y →`, I'm told:

```
Cannot eliminate type
Σ (CommutativeRing.Carrier ring₁)
(λ a →
   ∃
   (λ y →
      a A.*ₗ x A.≈ᴹ y × f y B.≉ᴹ Module.0ᴹ modB →
      (modB Module.≈ᴹ f x) (Module.0ᴹ modB) → x A.≈ᴹ A.0ᴹ))
with constructor pattern (s , y) , s·x≈y , fy≉0 (did you supply too
many arguments?)
```

And when I try: `∃ λ (s , y) →`, I'm told:

```
Cannot eliminate type
Σ
(_A_256 (modA = modA) (modB = modB)
 (isModuleHomomorphism = isModuleHomomorphism))
(_258 (modA = modA) (modB = modB)
 (isModuleHomomorphism = isModuleHomomorphism))
with constructor pattern (s , y) , s·x≈y , fy≉0 (did you supply too
many arguments?)
```

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 36 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:88]: Yep, thanks.
Fixed in next push.

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 37 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:90]: D'oh! Thanks. :(

Removed in next push.

File: src/Algebra/Module/Bundles.agda (hunk 26 above)
Comment (capn-freako) [reply src/Algebra/Module/Bundles.agda]: Here's what I ended up doing:

```
dbanas@DESKTOP-G84ND7C:~/prj/agda-stdlib
$ tree src/Algebra/Module/
src/Algebra/Module/
{snip}
├── Properties
│   ├── Semimodule.agda - Contains the old contents of `../Properties.agda`.
├── Properties.agda     - Provides `-ᴹ-involutive` and
                           imports (publicly) `Properties/Semimodule.agda.
{snip}
```

Let me know if you'd like further changes.

File: src/Algebra/Module/Properties.agda (hunk 39 above)
Comment (capn-freako) [reply src/Algebra/Module/Properties.agda]: Changed as requested in most recent push.

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 34 above)
Comment (JacquesCarette) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:90]: I would put that locally as an assumption only where you need it.  Yes, this is derivable from decidability.

File: src/Algebra/Module/Properties/Semimodule.agda [hunk 40]
```diff
@@ -0,0 +1,40 @@
...
+  {semiring  : CommutativeSemiring r ℓr}
+  (semimod   : Semimodule semiring m ℓm)
+  where
+
+open CommutativeSemiring semiring
+open Semimodule          semimod
+open import Relation.Nullary.Negation using (contraposition)
+open import Relation.Binary.Reasoning.Setoid ≈ᴹ-setoid
+
+s≈0⇒s*v≈0 : ∀ {s} {v} → s ≈ 0# → s *ₗ v ≈ᴹ 0ᴹ
```
Comment (JacquesCarette) [inline src/Algebra/Module/Properties/Semimodule.agda:24]: This is true for any left zero (and the next, for any right zero). I get the feeling that it might already be proved in greater generality elsewhere? (Or should be?)

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 41]
```diff
@@ -0,0 +1,135 @@
...
+open CommutativeRing ring renaming (Carrier to S)
+
+module _
+  {f : A → B}
+  (isModuleHomomorphism : IsModuleHomomorphism f)
+  where
+
+  open IsModuleHomomorphism isModuleHomomorphism
+
+  -- f(x) ≈ 0 iff x ≈ 0, for linear non-trivial f
```
Comment (JacquesCarette) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:44]: Now that I relook at this proof: this seems to only assume left-zero in both A and B.

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 42]
```diff
@@ -0,0 +1,135 @@
...
+  x≈0⇒fx≈0 {x} x≈0 = begin⟨ B.≈ᴹ-setoid ⟩
+    f x    ≈⟨ ⟦⟧-cong x≈0 ⟩
+    f A.0ᴹ ≈⟨ f0≈0 ⟩
+    B.0ᴹ   ∎
+
+  fx≉0⇒x≉0 : ∀ {x} → f x B.≉ᴹ B.0ᴹ → x A.≉ᴹ A.0ᴹ
+  fx≉0⇒x≉0 = contraposition x≈0⇒fx≈0
+
+  -- Zero is a unique output of linear map ≉ `const 0`.
+  zero-unique : ∀ {x} →
```
Comment (JacquesCarette) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:62]: This is an awkward way to phrase uniqueness (constructively). Normally what you do is assume you have something else (call it `z`) that behaves like a zero, and then derive that it must be equal to 0.

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 43]
```diff
@@ -0,0 +1,135 @@
...
+    s·fx≉0  : (s B.*ₗ f x) B.≉ᴹ B.0ᴹ
+    s·fx≉0 s·fx≈0 =
+      fy≉0 ( begin⟨ B.≈ᴹ-setoid ⟩
+             f y          ≈⟨ ⟦⟧-cong (A.≈ᴹ-sym s·x≈y) ⟩
+             f (s A.*ₗ x) ≈⟨ *ₗ-homo s x ⟩
+             s B.*ₗ f x   ≈⟨ s·fx≈0 ⟩
+             B.0ᴹ         ∎
+           )
+
+  -- f is odd (i.e. - f (-x) ≈ - (f x)).
```
Comment (JacquesCarette) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:79]: Can't you prove the statement that's in the comment directly? (By linearity, you should be able to pull -1 out. You'd need to first prove that -x is necessarily -1*x, which is useful in its own right).

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 44]
```diff
@@ -0,0 +1,135 @@
...
+      Σ[ (s , y) ∈ S × A ] ((s A.*ₗ x A.≈ᴹ y) × (f y B.≉ᴹ B.0ᴹ)) →
+      f x B.≈ᴹ B.0ᴹ → x A.≈ᴹ A.0ᴹ
+    fx≈0⇒x≈0 {x} ((s , y) , (s·x≈y , fy≉0)) fx≈0 =
+      dne ¬x≉0
+      where
+      ¬x≉0 : ¬ (x A.≉ᴹ A.0ᴹ)
+      ¬x≉0 = λ x≉0 → zero-unique ((s , y) , (s·x≈y , fy≉0)) x≉0 fx≈0
+
+    -- A non-trivial linear function is injective.
+    fx-fy≈0 : ∀ {x y} → f x B.≈ᴹ f y → f x B.+ᴹ (B.-ᴹ f y) B.≈ᴹ B.0ᴹ
```
Comment (JacquesCarette) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:102]: This is not really injectivity, I certainly got confused by the comment.

**Review by JacquesCarette — CHANGES_REQUESTED** [review]

File: src/Algebra/Module/Properties.agda (hunk 23 above)
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Module/Properties.agda]: @MatthewDaggitt ?

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 11 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda]: Since I've already got modules "A" and "B", I've chosen "PA" and "PB" for the _properties_ of modules A and B, respectively.

```agda
module A = Module modA
open A using () renaming (Carrierᴹ to A)
module B = Module modB
open B using () renaming (Carrierᴹ to B)
module PA = ModuleProperties modA
module PB = ModuleProperties modB
```

File: src/Algebra/Module/Bundles.agda (hunk 26 above)
Comment (capn-freako) [reply src/Algebra/Module/Bundles.agda]: @MatthewDaggitt ?

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 34 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:90]: > I would put that locally as an assumption only where you need it.

Yeah, that makes sense since I only use it for one lemma.

**==> Requested change arriving in next push.**

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 35 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:93]: @MatthewDaggitt ?

File: src/Algebra/Module/Properties/Semimodule.agda (hunk 40 above)
Comment (capn-freako) [reply src/Algebra/Module/Properties/Semimodule.agda:24]: Hi @JacquesCarette ,

I'm guessing that you'd like to see these properties moved into `Algebra.Module.Structures.IsLeftSemimodule`.
Is that correct?
It makes sense, since that's where the last dependencies (i.e. - `*ₗ-congˡ` and `*ₗ-congʳ`) are defined.

However, when I try to move this code into that record definition, I bump into all kinds of awkwardness, which I believe stems from the fact that `*ₗ` is _not_ defined as an infix operator:

```agda
record IsLeftSemimodule (*ₗ : Opₗ R M) : Set (r ⊔ m ⊔ ℓr ⊔ ℓm) where
```

Is this movement of code super important to you?

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 41 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:44]: D'oh! You're right. Thank you!

**==> Requested change arriving with next push.**

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 42 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:62]: Hi @JacquesCarette ,

Are you proposing a change to:

1. the type signature,
2. the definition, or
3. both?

Comment (JacquesCarette) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:62]: I think both. I'd expect something more positive, in the sense of "assume this thing z behaves just like 0, then it must in fact be equal to 0".  That's what 'uniqueness' brings to mind for me. You've got some kind of double-negative version of that.

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 43 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:79]: So, the only thing that occurs to me is to show that `(-1 *)` also forms the additive inverse; something like:

```agda
x+[-x]≈x+[-1*x] : ∀ {x} → x A.+ᴹ (A.-ᴹ x) ≈ x A.+ᴹ (- 1#) A.*ₗ x
x+[-x]≈x+[-1*x] = begin⟨ A.≈ᴹ-setoid ⟩
  x A.+ᴹ (A.-ᴹ x) ≈⟨⟩
  A.0ᴹ ≈⟨⟩
  0# A.*ₗ x ≈⟨⟩
  (1# + (- 1#)) A.*ₗ x ≈⟨⟩
  1# A.*ₗ x + (- 1#) A.*ₗ x ≈⟨⟩
  x A.+ᴹ (- 1#) A.*ₗ x
```

But, there are two problems:

1. The code  above is longer than my existing prerequisite: `fx+f[-x]≈0`, and

2. `_+ᴹ_` isn't guaranteed to be injective, or at least I can't find a definition in the library:

    ```agda
    $ git grep -- 'Injective .*_+ᴹ_' src/Algebra/Module/                                 
    
    $
    ```

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 44 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:102]: The comment refers to `inj-lm`.
All lemmas in between the comment and `inj-lm` are prerequisites of `inj-lm`.

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 42 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:62]: Oh, except that I'm going the other way in this lemma.
I'm trying to prove that if the argument to `f` is _not_ zero then the result of `f` cannot be zero:

```agda
x A.≉ᴹ A.0ᴹ → f x B.≉ᴹ B.0ᴹ
```

Perhaps, my function name is misleading?

**Comment by capn-freako** [comment]
Hi @Taneb , @MatthewDaggitt , @JacquesCarette ,

While working on my next PR (support of abstract vector spaces), I restructured my linearity stuff in a way that I _think_ might be a better fit to the intended use model of the Agda standard library.

I didn't want to back-merge those changes to this PR w/o giving you an opportunity to review them first.
You can find this "restructuring" on the `vector-space` branch of my fork:
https://github.com/capn-freako/agda-stdlib/tree/vector-space

The changes are basically:

1. Created `Algebra.Module.Morphism.Bundles` as a home for a new `LinearMap` record.
2. Moved `Algebra.Module.Morphism.Linear.Properties` up a level to: `Algebra.Module.Morphism.Properties`, wrapped in a sub-record: `LinearMapProperties`.

Looking forward to hearing your feedback on this restructuring of my linearity axioms,
-db

**Comment by JacquesCarette** [comment]
I find the restructuring fine.

**Comment by MatthewDaggitt** [comment]
Sorry I'm in the middle of a month long holiday at the moment. Would you
mind if I had a look when I get back? If Jacques says it looks good, then
it should be fine to add it to the main PR!

**Comment by capn-freako** [comment]
Okay, great! I'll go ahead and merge the changes here.

And sorry to bother you on vacation.
I hope your having a wonderful time. :)

**Comment by capn-freako** [comment]
Hmmm, on second thought, I think I'll wait.
Merging would pull in a lot of extraneous stuff not directly pertinent to these linearity proofs.

I'll get the `vector-space` pull request submitted, so it's ready to go when this one gets accepted.
That should minimize any exposure to the changing structure.

**Comment by capn-freako** [comment]
Hi all,

A friend suggested that the large number of commits coming in through this PR may be an impediment to its acceptance.
Would you all prefer that I squash those?
(I'm somewhere in the Journeyman phase of my Git learning and never quite sure when it's appropriate to squash commits.)

Thanks,
-db

**Comment by capn-freako** [comment]
Hi all,

I'm wondering what I can do, to bring this to closure.
It's kind of a pain, having my `master` branch blocked by this.
(I know, my bad; should've used a branch; I think I've learned my lesson. ;-) )

Also, I've got a third PR waiting in the wings. (It's dependent upon both this one and my second.)
It completes a "trifecta" that I agreed to do, in this working group I'm participating in, which will provide a _denotation_ for `Data.Vec` in terms of linear maps between abstract vector spaces.
I've been told by the group leader that it will be quite useful towards our common aims.
And I'd like to get it available to the rest, without asking them to work from my fork of the standard library.

Anything I can do, to help close this?

Thanks,
-db
:)

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 35 above)
Comment (MatthewDaggitt) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:99]: You will need to put brackets around it, e.g. `(∃₂ λ s y → ((s A.*ₗ x A.≈ᴹ y) × (f y B.≉ᴹ B.0ᴹ)))`. The argument can then be `(s , y , s·x≈y , fy≉0)`.

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 45]
```diff
@@ -0,0 +1,127 @@
...
+
+  -- Zero is a unique output of non-trivial (i.e. - ≉ `const 0`) linear map.
+  zero-unique : ∀ {x} →
+                Σ[ (s , y) ∈ S × A ] ((s A.*ₗ x A.≈ᴹ y) × (f y B.≉ᴹ B.0ᴹ)) →
+                x A.≉ᴹ A.0ᴹ → f x B.≉ᴹ B.0ᴹ
+  zero-unique {x} ((s , y) , (s·x≈y , fy≉0)) x≉0 =
+    PB.s*v≉0⇒v≉0 s·fx≉0
+    where
+    y≉0     : y A.≉ᴹ A.0ᴹ
+    y≉0     = fx≉0⇒x≉0 fy≉0
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:61]: `y≉0` not necessary?

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 46]
```diff
@@ -0,0 +1,127 @@
...
+    f x B.+ᴹ f (A.-ᴹ x) ≈⟨ B.≈ᴹ-sym (+ᴹ-homo x (A.-ᴹ x)) ⟩
+    f (x A.+ᴹ (A.-ᴹ x)) ≈⟨ ⟦⟧-cong (A.-ᴹ‿inverseʳ x) ⟩
+    f A.0ᴹ              ≈⟨ 0ᴹ-homo ⟩
+    B.0ᴹ                ∎
+
+  f[-x]≈-fx : ∀ {x} → f (A.-ᴹ x) B.≈ᴹ B.-ᴹ f x
+  f[-x]≈-fx {x} = B.uniqueʳ‿-ᴹ (f x) (f (A.-ᴹ x)) fx+f[-x]≈0
+
+  -- A non-trivial linear function is injective.
+  fx-fy≈0 : ∀ {x y} → f x B.≈ᴹ f y → f x B.+ᴹ (B.-ᴹ f y) B.≈ᴹ B.0ᴹ
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:83]: This name doesn't seem great, as it omits a very important pre-condition. How about `fx≈fy⇒fx-fy≈0`?

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 47]
```diff
@@ -0,0 +1,127 @@
...
+  fx-fy≈0 {x} {y} fx≈fy = begin⟨ B.≈ᴹ-setoid ⟩
+    f x B.+ᴹ (B.-ᴹ f y) ≈⟨ B.+ᴹ-congˡ (B.-ᴹ‿cong (B.≈ᴹ-sym fx≈fy)) ⟩
+    f x B.+ᴹ (B.-ᴹ f x) ≈⟨ B.-ᴹ‿inverseʳ (f x) ⟩
+    B.0ᴹ                ∎
+
+  fx-y≈0 : ∀ {x y} → f x B.≈ᴹ f y → f (x A.+ᴹ (A.-ᴹ y)) B.≈ᴹ B.0ᴹ
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:89]: Likewise I think `fx≈fy⇒f[x-y]≈0` would be better?

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 48]
```diff
@@ -0,0 +1,127 @@
...
+      Σ[ (s , y) ∈ S × A ] ((s A.*ₗ x A.≈ᴹ y) × (f y B.≉ᴹ B.0ᴹ)) →
+      f x B.≈ᴹ B.0ᴹ → x A.≈ᴹ A.0ᴹ
+    fx≈0⇒x≈0 {x} ((s , y) , (s·x≈y , fy≉0)) fx≈0 =
+      dne ¬x≉0
+      where
+      ¬x≉0 : ¬ (x A.≉ᴹ A.0ᴹ)
+      ¬x≉0 = λ x≉0 → zero-unique ((s , y) , (s·x≈y , fy≉0)) x≉0 fx≈0
+
+    inj-lm : ∀ {x y} →
+      Σ[ (s , z) ∈ S × A ] ( (s A.*ₗ (x A.+ᴹ A.-ᴹ y) A.≈ᴹ z)
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:108]: Could you ensure the alignment of this type and others in the file match the [style guide](https://github.com/agda/agda-stdlib/blob/master/notes/style-guide.md#indentation)?

File: src/Algebra/Module/Properties/Semimodule.agda [hunk 49]
```diff
@@ -0,0 +1,40 @@
...
+s≈0⇒s*v≈0 {s} {v} s≈0 = begin
+  s  *ₗ v ≈⟨ *ₗ-congʳ s≈0 ⟩
+  0# *ₗ v ≈⟨ *ₗ-zeroˡ v ⟩
+  0ᴹ      ∎
+
+v≈0⇒s*v≈0 : ∀ {s} {v} → v ≈ᴹ 0ᴹ → s *ₗ v ≈ᴹ 0ᴹ
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Properties/Semimodule.agda:30]: Incredibly minor but we can save two characters in each type by merging the implicit brackets, e.g. `{s v}`.

Also is there a reason that you've switched from using the names `x` and `y` for elements of the main carrier set in the other module to `v` here?

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 50]
```diff
@@ -0,0 +1,127 @@
...
+
+  -- f is odd (i.e. - f (-x) ≈ - (f x)).
+  fx+f[-x]≈0 : ∀ {x} → f x B.+ᴹ f (A.-ᴹ x) B.≈ᴹ B.0ᴹ
+  fx+f[-x]≈0 {x} = begin⟨ B.≈ᴹ-setoid ⟩
+    f x B.+ᴹ f (A.-ᴹ x) ≈⟨ B.≈ᴹ-sym (+ᴹ-homo x (A.-ᴹ x)) ⟩
+    f (x A.+ᴹ (A.-ᴹ x)) ≈⟨ ⟦⟧-cong (A.-ᴹ‿inverseʳ x) ⟩
+    f A.0ᴹ              ≈⟨ 0ᴹ-homo ⟩
+    B.0ᴹ                ∎
+
+  f[-x]≈-fx : ∀ {x} → f (A.-ᴹ x) B.≈ᴹ B.-ᴹ f x
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:79]: I suspect the argument `x` should be explicit rather than implicit here, as there's no subsequent argument that Agda can reliably infer it from. The current setup will work sometimes, but not always.

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 51]
```diff
@@ -0,0 +1,127 @@
...
+-- Properties of linear maps.
+------------------------------------------------------------------------
+
+{-# OPTIONS --without-K --safe #-}
+
+open import Algebra                   using (CommutativeRing)
+open import Algebra.Module            using (Module)
+open import Level                     using (Level)
+
+module Algebra.Module.Morphism.Linear.Properties
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:13]: Finally by library convention, this should be called `Algebra.Module.Morphism.ModuleHomomorphism`. I know it has special significance as linear maps, but I think it is better to put comments to that effect both on the main record definition, and in the header of this module?

**Review by MatthewDaggitt — COMMENTED** [review]
> A friend suggested that the large number of commits coming in through this PR may be an impediment to its acceptance.
Would you all prefer that I squash those?
(I'm somewhere in the Journeyman phase of my Git learning and never quite sure when it's appropriate to squash commits.)

Your friend is right in that the commit history is messy and we don't want to add it to the main branch, but don't worry, we will squash all the commits down automatically when it's merged in!

> Anything I can do, to help close this?

Apologies for the delay, I'm back from travelling and will try and be more prompt to replying to it now. Once the latest round of comments are addressed should be pretty close to being ready to merge in :+1: Thanks for your patience!

File: src/Algebra/Module/Properties/Semimodule.agda (hunk 40 above)
Comment (capn-freako) [reply src/Algebra/Module/Properties/Semimodule.agda:24]: But, doesn't it need to apply, at least, to a semimodule?
That is, isn't _left zero_ a (semi)module-centric conept?

File: src/Algebra/Module/Properties/Semimodule.agda (hunk 49 above)
Comment (capn-freako) [reply src/Algebra/Module/Properties/Semimodule.agda:30]: Changed as requested in next push.

The `s` and `v` are intended to suggest: _scalar_ and _vector_.

**Review by capn-freako — COMMENTED** [review]
Completed my responses to Matthew's comments.
Will push code changes shortly.

File: src/Algebra/Module/Properties/Semimodule.agda [hunk 52]
```diff
@@ -0,0 +1,40 @@
...
+
+module Algebra.Module.Properties.Semimodule
+  {r ℓr m ℓm : Level}
+  {semiring  : CommutativeSemiring r ℓr}
+  (semimod   : Semimodule semiring m ℓm)
+  where
+
+open CommutativeSemiring semiring
+open Semimodule          semimod
+open import Relation.Nullary.Negation using (contraposition)
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Properties/Semimodule.agda:21]: This should live in the imports above the module declaration as it doesn't depend on the parameters?

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 53]
```diff
@@ -0,0 +1,124 @@
...
+  where
+
+import Algebra.Module.Properties            as ModuleProperties
+import Algebra.Module.Morphism.Structures   as MorphismStructures
+
+open import Axiom.DoubleNegationElimination
+open import Data.Product
+open import Relation.Binary.Reasoning.MultiSetoid
+open import Relation.Nullary          using (¬_)
+open import Relation.Nullary.Negation using (contraposition)
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:26]: All imports that don't depend on the module parameters should live above the main module declaration.

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 54]
```diff
@@ -0,0 +1,124 @@
...
+  (isModuleHomomorphism : IsModuleHomomorphism f)
+  where
+
+  open IsModuleHomomorphism isModuleHomomorphism
+
+  NonTrivial : A → Set (r Level.⊔ m Level.⊔ ℓm)
+  NonTrivial x = (∃₂ λ s y → ((s A.*ₗ x A.≈ᴹ y) × (f y B.≉ᴹ B.0ᴹ)))
+  -- NonTrivial x = Σ[ (s , y) ∈ S × A ] ( (s A.*ₗ x A.≈ᴹ y)
+  --                                     × (f y B.≉ᴹ B.0ᴹ)
+  --                                     )
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:48]: Remove commented out definition?

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 55]
```diff
@@ -0,0 +1,124 @@
...
+open CommutativeRing ring renaming (Carrier to S)
+
+module _
+  {f : A → B}
+  (isModuleHomomorphism : IsModuleHomomorphism f)
+  where
+
+  open IsModuleHomomorphism isModuleHomomorphism
+
+  NonTrivial : A → Set (r Level.⊔ m Level.⊔ ℓm)
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:44]: A comment above this definition explaining the intuition about why this represents non-triviality would be welcome! Also we should probably make it `private` for the moment....

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 56]
```diff
@@ -0,0 +1,124 @@
...
+  x≈0⇒fx≈0 {x} x≈0 = begin⟨ B.≈ᴹ-setoid ⟩
+    f x    ≈⟨ ⟦⟧-cong x≈0 ⟩
+    f A.0ᴹ ≈⟨ 0ᴹ-homo ⟩
+    B.0ᴹ   ∎
+
+  fx≉0⇒x≉0 : ∀ {x} → f x B.≉ᴹ B.0ᴹ → x A.≉ᴹ A.0ᴹ
+  fx≉0⇒x≉0 = contraposition x≈0⇒fx≈0
+
+  -- Zero is a unique output of non-trivial (i.e. - ≉ `const 0`) linear map.
+  zero-unique : ∀ {x} → NonTrivial x → x A.≉ᴹ A.0ᴹ → f x B.≉ᴹ B.0ᴹ
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Linear/Properties.agda:60]: I'm not sure if the current name is very representative of what the lemma actually says. Maybe we should rename this as `x≉0⇒fx≉0`?

File: src/Algebra/Module/Properties/Semimodule.agda (hunk 49 above)
Comment (MatthewDaggitt) [reply src/Algebra/Module/Properties/Semimodule.agda]: This wasn't changed in the next push. I think consistency is the best, so could we change both the names of the variables in the type and the name of the lemma?

File: src/Algebra/Module/Morphism/Linear/Properties.agda [hunk 57]
```diff
@@ -0,0 +1,127 @@
...
+open A using () renaming (Carrierᴹ to A)
+module B = Module modB
+open B using () renaming (Carrierᴹ to B)
+module PA = ModuleProperties modA
+module PB = ModuleProperties modB
+open CommutativeRing ring renaming (Carrier to S)
+
+module _
+  {f : A → B}
+  (isModuleHomomorphism : IsModuleHomomorphism f)
```
[the remark this answers is not in the document]
Comment (MatthewDaggitt) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:39]: So it's important that each merged in PR stands on its own two legs, in case hypothetical latter PRs don't get merged in.
So in the interests of merging in _this_ PR, again could we make this change now and then we can change it if required in #1781?

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 50 above)
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda:81]: Ah, got it; thanks!

**==> Code changed, as requested, in next push.**

**Question:** Should `x` and `y` in the following two functions be made explicit, as well?

File: src/Algebra/Module/Properties/Semimodule.agda (hunk 52 above)
Comment (capn-freako) [reply src/Algebra/Module/Properties/Semimodule.agda:21]: Oh, I thought your previous comment in this regard was referring only to `import ...` lines and _not_ to `open import ...` lines. Now, I'm very confused, because my general sense of the standard library code is that the only `open import ...` lines that get pulled _above_ the main module declaration are those necessary, to specify the types of the main module parameters. Is that not the case?

Comment (capn-freako) [reply src/Algebra/Module/Properties/Semimodule.agda:21]: From the style guide:

> All imports should be placed in a list at the top of the file immediately after the module declaration.
>
> The list of imports should be declared in alphabetical order.
>
>If the module takes parameters that require imports from other files, then those imports only may be placed above the module declaration, e.g.

```agda
open import Algebra using (Ring)

module Algebra.Properties.Ring {a l} (ring : Ring a l) where

      ... other imports
```

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 57 above)
[the remark this answers is not in the document]
Comment (MatthewDaggitt) [reply src/Algebra/Module/Morphism/Linear/Properties.agda]: Ah so you can either write:
```agda
module Algebra.Module.Morphism.ModuleHomomorphism
  {r ℓr m ℓm : Level}
  {ring      : CommutativeRing r ℓr}
  (modA modB  : Module ring m ℓm)
  {f : Module.Carrierᴹ modA → Module.Carrierᴹ modB}
  (isModuleHomomorphism : IsModuleHomomorphism f)
  where
```
or you can do the following neat trick:
```agda
module Algebra.Module.Morphism.ModuleHomomorphism
  {r ℓr m ℓm : Level}
  {ring      : CommutativeRing r ℓr}
  (modA modB  : Module ring m ℓm)
  (open Module modA using () renaming (Carrierᴹ to A))
  (open Module modB using () renaming (Carrierᴹ to B))
  {f : A → B}
  (isModuleHomomorphism : IsModuleHomomorphism f)
  where
```

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 50 above)
Comment (MatthewDaggitt) [reply src/Algebra/Module/Morphism/Linear/Properties.agda]: I think they should be fine as they're provided by an argument :+1:  Our definition of `Injective` in the library has the same form and we don't have any inference problems with that.

File: src/Algebra/Module/Properties/Semimodule.agda (hunk 52 above)
Comment (MatthewDaggitt) [reply src/Algebra/Module/Properties/Semimodule.agda:21]: You're completely right! I was getting confused, apologies. Thanks for the spot :smile:

**Comment by MatthewDaggitt** [comment]
Okay so once the module parameters change is made, this is ready :+1:

File: src/Algebra/Module/Morphism/Linear/Properties.agda (hunk 57 above)
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Module/Morphism/Linear/Properties.agda]: Code changed, as requested, in next push.

File: src/Algebra/Module/Properties/Semimodule.agda (hunk 49 above)
Comment (capn-freako) [reply src/Algebra/Module/Properties/Semimodule.agda]: Code changed, as requested:

- 's' => 'x'
- 'v' => 'y'

in next push.

**Comment by capn-freako** [comment]
Thanks, Matthew!

Changes have been pushed.

**Comment by MatthewDaggitt** [comment]
Merged in. Thanks for the great PR @capn-freako, and for your patience!

**Comment by capn-freako** [comment]
Thanks, Matthew!

And thank you, all, for your helpful guidance and patience during my first attempt to contribute. :)

**Comment by JacquesCarette** [comment]
Luckily, this is so new that I don't think anythign relies on it yet. So fixing it shouldn't be a big deal, as there's nothing to deprecate!

**Comment by JacquesCarette** [comment]
(or am I wrong and this made it out in 1.7?)

**Comment by Taneb** [comment]
@JacquesCarette you were correct, this is not in any released branch

**Comment by JacquesCarette** [comment]
That helps a lot - fix away! I agree with all the suggestions you made.

**Comment by MatthewDaggitt** [comment]
Yup, @Taneb if you have a PR going to fix these then great. Otherwise can you open an issue under the `v2.0` milestone with the above comments in so that they don't get missed?
